US07183436B2
A solution of N-methylindol (400 mg, 3.05 mmol) in dry THF (20 ml) was cooled to −5° C. under a stream of argon. Tert-butyllithium (3.65 mmol, 2.15 ml of a 1.7 molar pentane solution) was added dropwise in such a way that a reaction temperature of 0° C. was not exceeded. Once all the substance had been added, the reaction mixture was stirred for 2 hours at 0° C. A solution of 4-dimethylamino-4-phenylcyclohexanone (662 mg, 3.05 mmol) in dry THF (5 ml) was added dropwise at 0° C. The mixture was stirred for 15 minutes at 0° C. and then 4 hours at ambient temperature. The reaction mixture was quenched with saturated ammonium chloride solution (20 ml), the organic phase was separated and the aqueous phase extracted four times with dichloromethane (20 ml). The combined organic phases were dried over sodium sulfate, filtered and the solvent removed under vacuum. Purification was carried out by flash chromatography with cyclohexane/ethylacetate (V:V=7:3) over silica gel. 318 mg 4-dimethylamino-1-(1-methyl-1H-indol-2-yl)-4-phenylcyclohexanol with a melting point of 163–165° C. were obtained.

reactant | N-methylindol | 3.05 mmol, 400 mg | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | Tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 1.7 molar | CCCCC | C5H12
reactant | 4-dimethylamino-4-phenylcyclohexanone | 3.05 mmol, 662 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-dimethylamino-1-(1-methyl-1H-indol-2-yl)-4-phenylcyclohexanol | 318 mg | CN(C1(CCC(CC1)(O)C=1N(C2=CC=CC=C2C1)C)C1=CC=CC=C1)C | C23H28N2O
